US09085607B2
Solubility Assessment of ACH-0142684
The solubility of ACH-0142684 sodium salt was determined at room temperature using the following procedure. The input material (˜10 mg) was weighed into each of 12 vials, followed by addition of a solvent in multiple aliquots between 50μL to 10-mL at room temperature. Samples were visually inspected for complete dissolution after each solvent addition. The solubility of crystalline ACH-0142684 sodium salt is summarized in TABLE 1, which provides a solubility assessment of amorphous API in 12 solvents. The solubility of API-0142684 in water after temperature cycling between 40° C. and 5° C. for 2 days is ˜50 mg/ml.

reactant | ACH-0142684 sodium | CC1=C(C=CC2=C1N=C(C=C2O[C@@H]3C[C@H]4C(=O)N[C@@]5(C[C@H]5/C=C\CCCCC[C@@H](C(=O)N4C3)CC(=O)N6CCCC(C6)(F)F)C(=O)NS(=O)(=O)C7CC7)C8=NC(=CS8)C(C)C)OC.[Na]
solvent | water | O | H2O
product | ACH-0142684 | CC1=C(C=CC2=C1N=C(C=C2O[C@@H]3C[C@H]4C(=O)N[C@@]5(C[C@H]5/C=C\CCCCC[C@@H](C(=O)N4C3)CC(=O)N6CCCC(C6)(F)F)C(=O)NS(=O)(=O)C7CC7)C8=NC(=CS8)C(C)C)OC | C45H56F2N6O8S2
